US04291042
2-[1-(2-[Indol-3-yl]ethyl)piperid-4-yl]-5-nitro-1H-isoindole-1,3-(2H)-dione
4-Amino-1-[2-(indol-3-yl)ethyl]piperidine (1.22 g, 5 mmol) was dissolved in refluxing acetonitrile (20 cm3) and a solution of 4-nitrophthalic anhydride (0.96 g, 5 mmol) in acetonitrile (10 cm3) was added dropwise with stirring to precipitate a yellow gum. The mixture was refluxed for a further 2-3 minutes then cooled in ice. The precipitated material was collected and heated in acetic anhydride on a steam bath for 1/2 hour. The solvent was evaporated. Methanol was added to the residue and evaporated to destroy excess acetic anhydride. The residue was then dissolved in very dilute aqueous acetic acid and insoluble material filtered off. The filtrate was basified by addition of conc. ammonia to precipitate a gum, which was triturated with methanol under reflux to give the title compound as a bright orange solid (0.44 g, 21%).

reactant | 4-Amino-1-[2-(indol-3-yl)ethyl]piperidine | 5 mmol, 1.22 g | NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C15H21N3
reactant | 4-nitrophthalic anhydride | 5 mmol, 0.96 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
solvent | acetonitrile | 10 cm3 | C(C)#N | C2H3N
solvent | acetonitrile | 20 cm3 | C(C)#N | C2H3N
product | 2-[1-(2-[Indol-3-yl]ethyl)piperid-4-yl]-5-nitro-1H-isoindole-1,3-(2H)-dione | 0.44 g, 21% | N1C=C(C2=CC=CC=C12)CCN1CCC(CC1)N1C(C2=CC=C(C=C2C1=O)[N+](=O)[O-])=O | C23H22N4O4
